US06462038B1
This compound was prepared according to General Method 18 (EXAMPLE 45) from 3,4-difluoronitrobenzene (5.34 mL, 0.048 mol), R-(−)-2 amino-1-butanol (4.14 mL, 0.044 mol) and sodium bicarbonate (3.68 g, 0.044 mol) in 133 mL anhydrous DMF heated at 90° C. for 12 hrs to afford 9.9 g (99%) of (2R)-2-(2-fluoro-4-nitrophenyl)amino-1-butanol, a yellow oil, after flash chromatography (gradient elution, hexanes:ethyl acetate 95:5 to 50:50). Data for (2R)-2-(2-fluoro-4-nitrophenyl)amino-1-butanol: 1H NMR (500 MHz, CDCl3) δ 7.98 (dd, J=8.8, 1.5, 1H), 7.89 (dd, J=11.7, 2.4, 1H), 6.71 (dd, J=8.8, 8.8, 1H), 4.72 (bs, 1H), 3.81 (m, 1H), 3.73 (m, 1H), 3.55 (m, 1H), 1.76 (m, 1H), 1.63 (m, 1H), 1.02 (t, J=7.8, 3H).

reactant | 3,4-difluoronitrobenzene | 0.048 mol, 5.34 mL | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | R-(−)-2 amino-1-butanol | 0.044 mol, 4.14 mL | CCC(CO)N | C4H11NO
reactant | sodium bicarbonate | 0.044 mol, 3.68 g | C([O-])(O)=O.[Na+]
solvent | DMF | 133 mL | CN(C)C=O | C3H7NO
product | (2R)-2-(2-fluoro-4-nitrophenyl)amino-1-butanol | 9.9 g, 99% | FC1=C(C=CC(=C1)[N+](=O)[O-])N[C@@H](CO)CC | C10H13FN2O3
